US05892091
Preparation of Phenyl 4-Chlorobenzoate
The decarbonylation reaction of Example 79 was repeated except that phenyl phenylglyoxylate (PPG) was replaced with 4-chlorophenyl phenylglyoxylate (4-CPPG), and that the amounts of tetraphenylphosphonium chloride and chloroform were changed as set forth in Table 13. The results are set forth in Table 13.

reactant | phenyl phenylglyoxylate | C1(=CC=CC=C1)C(C(=O)OC1=CC=CC=C1)=O | C14H10O3
reactant | 4-chlorophenyl phenylglyoxylate | C1(=CC=CC=C1)C(C(=O)OC1=CC=C(C=C1)Cl)=O | C14H9ClO3
catalyst | tetraphenylphosphonium chloride | [Cl-].C1(=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Phenyl 4-Chlorobenzoate | ClC1=CC=C(C(=O)OC2=CC=CC=C2)C=C1 | C13H9ClO2
